US04167638
B. 5-Dimethylamino-6-methoxy-8-(1-methyl-4-phthalimidobutylamino)-quinoline.
A stirred mixture of 17.2 g (0.033 mole) of 8-amino-5-dimethylamino-6-methoxyquinoline and 9.8 g (0.033 mole) of 4-bromo-1-phthalimidopentane was maintained at 145° while 5 ml of triethylamine was added dropwise. Addition of 9.8 g of 4-bromo-1-phthalimidopentane and 5 ml of triethylamine was repeated three more times, at the same temperature (145°) at 2 hr intervals. The mixture was allowed to cool, diluted with acetone and filtered. The filtrate was concentrated to a brown oil which was diluted with ether, washed with 30% KOH and extracted with chloroform. The extract was passed through a silica column and the eluate was concentrated, dissolved in ether, treated with Darco and slowly evaporated to give yellow crystals which, after washing with petroleum ether (bp 20°-40°) weighed 9.5 g and melted at 103°-105°.

reactant | 8-amino-5-dimethylamino-6-methoxyquinoline | 0.033 mole, 17.2 g | NC=1C=C(C(=C2C=CC=NC12)N(C)C)OC | C12H15N3O
reactant | 4-bromo-1-phthalimidopentane | 0.033 mole, 9.8 g | BrC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14BrNO2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-1-phthalimidopentane | 9.8 g | BrC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14BrNO2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 5-Dimethylamino-6-methoxy-8-(1-methyl-4-phthalimidobutylamino)-quinoline | CN(C1=C2C=CC=NC2=C(C=C1OC)NC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C)C | C25H28N4O3
